US07205306B2
5-Chloro-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 7-chloro-6-fluoro-5-methoxyindoline as the starting materials. mp 140–142° C.; 1H NMR (300 MHz, CDCl3): δ 7.00 (s, 1 H), 6.79 (d, J=7.3 Hz, 1 H), 4.97–4.85 (m, 1 H), 4.34 (t, J=7.6 Hz, 2 H), 3.86 (s, 3 H), 3.65 (dd, J=10.6, 5.8 Hz, 1 H), 3.54 (dd, J=10.6, 3.7 Hz, 1 H), 3.33 (s, 3 H), 3.07 (t, J=7.5 Hz, 2 H), 1.90–1.72 (m, 2 H), 0.92 (t, J=7.5 Hz, 3 H); HRMS (ESI) calcd for C18H21N3O3Cl2F (M+H)+: 416.0944; found m/z 416.0955.

reactant | 3,5-dichloro-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)COC)=O | C9H12Cl2N2O2
reactant | 7-chloro-6-fluoro-5-methoxyindoline | ClC=1C(=C(C=C2CCNC12)OC)F | C9H9ClFNO
product | 5-Chloro-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CC)COC)=O)N1CCC2=CC(=C(C(=C12)Cl)F)OC | C18H20Cl2FN3O3
